US09024041B2
N-(4-(4-(3-(1-(4-Aminophenyl)-3-tert-butyl-1H-pyrazol-5-yl)ureido) naphthalen-1-yloxy)pyridin-2-yl)-2-methoxyacetamide
A solution of N-(4-(4-(3-(3-tert-butyl-1-(4-nitrophenyl)-1H-pyrazol-5-yl)ureido)naphthalen-1-yloxy)pyridin-2-yl)-2-methoxyacetamide (270 mg, 0.443 mmol) in a mixture of MeOH (20 mL) and AcOH (1.0 mL) was subjected to hydrogenation by passage through a Thales H-cube (1.0 mL min−1, 40° C., 55 mm, 10% Pt—C Cat-Cart, full hydrogen mode). The reaction mixture was evaporated in vacuo and the residue was partitioned between EtOAc (15 mL) and saturated aq. NaHCO3 (15 mL). The organic layer was separated and was washed with brine (15 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, EtOAc in isohexane, 20-100%, gradient elution) to afford the title compound, Example 1, as a pale brown solid (115 mg, 43%); Rt 4.87 min (Method 1 basic); m/z 580 (M+H)+ (ES+); 1H NMR (400 MHz, DMSO-d6) δ: 1.25 (9H, s), 3.30 (3H, s), 3.98 (2H, s), 5.41 (2H, s), 6.34 (1H, s), 6.68-6.71 (3H, overlapping m), 7.14 (2H, d), 7.33 (1H, d), 7.57 (1H, m), 7.63-7.67 (2H, overlapping m), 7.83 (1H, d), 7.98 (1H, dd), 8.09 (1H, d), 8.18 (1H, d), 8.65 (1H, s), 9.18 (1H, s), 10.04 (1H, s).

reactant | N-(4-(4-(3-(3-tert-butyl-1-(4-nitrophenyl)-1H-pyrazol-5-yl)ureido)naphthalen-1-yloxy)pyridin-2-yl)-2-methoxyacetamide | 0.443 mmol, 270 mg | C(C)(C)(C)C1=NN(C(=C1)NC(NC1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)NC(COC)=O)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C32H31N7O6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
solvent | AcOH | 1.0 mL | CC(=O)O | C2H4O2
catalyst | Pt—C | [Pt] | Pt
product | N-(4-(4-(3-(1-(4-Aminophenyl)-3-tert-butyl-1H-pyrazol-5-yl)ureido) naphthalen-1-yloxy)pyridin-2-yl)-2-methoxyacetamide | NC1=CC=C(C=C1)N1N=C(C=C1NC(NC1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)NC(COC)=O)=O)C(C)(C)C | C32H33N7O4
